US03963725
A solution of 3,4-dihydroxyphenethylamine hydrochloride (3.3 g) and (4-allyloxyphenoxy)acetaldehyde diethyl acetal (5.2 g) in a mixture of n-butanol (45 ml), water (12 ml) and concentrated hydrochloric acid (2 drops) was refluxed for 4 hours. After the reaction, the reaction mixture was concentrated to dryness. The residue was crystallized by adding acetone, and the crystals were recrystallized from a mixed solvent of 99% ethanol and ether to give 1-(4-allyloxyphenoxy)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (6.0 g), mp 114° to 116°C.

reactant | 3,4-dihydroxyphenethylamine hydrochloride | 3.3 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | (4-allyloxyphenoxy)acetaldehyde diethyl acetal | 5.2 g | C(C)OC(COC1=CC=C(C=C1)OCC=C)OCC | C15H22O4
reactant | water | 12 ml | O | H2O
solvent | n-butanol | 45 ml | C(CCC)O | C4H10O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | 1-(4-allyloxyphenoxy)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 6.0 g | Cl.C(C=C)OC1=CC=C(OC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C18H19NO4.ClH/c1-2-9-22-13-3-5-14(6-4-13)23-18-15-11-17(21)16(20)10-12(15)7-8-19-18;/h2-6,10-11,18-21H,1,7-9H2;1H
